US07582629B2
4-[(4-Methoxyphenyl)amino]-2-methyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide
The title compound was prepared from 4-chloro-2-methyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide and 4-methoxyaniline in a similar manner as described for e.g. Examples 9 and 13. 1H NMR (400 MHz, CD3CN): δ 7.67 (bs, 1H), 7.27-7.22 (m, 1H), 7.18-7.10 (m, 4H), 6.78-6.73 (m, 2H), 6.57-6.52 (m, 2H), 3.65 (s, 3H), 3.20 (s, 3H); Mass Spectrum: M+H+ 345.

reactant | 4-chloro-2-methyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide | ClC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C)=O | C10H8ClNO3S
reactant | 4-methoxyaniline | COC1=CC=C(N)C=C1 | C7H9NO
product | 4-[(4-Methoxyphenyl)amino]-2-methyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide | COC1=CC=C(C=C1)NC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C)=O | C17H16N2O4S
